US04606865
Lithium bromide (17.4 g, 0.2 m) was dissolved in dimethy formamide (150 ml) and the mixture cooled to ambient temperature. Ethyl alpha-chloroethyl carbonate (30.5 g, 0.2 m) was added and the mixture stirred at ambient temperature for 24 hours. The precipitated lithium chloride was filtered off and the filtrate vacuum distilled to afford after careful re-fractionation, ethyl alpha-bromoethyl carbonate in 76% yield based upon recovered ethyl alphachloroethyl carbonate.

reactant | Lithium bromide | 17.4 g | [Br-].[Li+]
reactant | Ethyl alpha-chloroethyl carbonate | 30.5 g | C(OCC)(OC(C)Cl)=O | C5H9ClO3
solvent | dimethy formamide | 150 ml | CN(C=O)C | C3H7NO
product | ethyl alpha-bromoethyl carbonate | 76% yield | C(OCC)(OC(C)Br)=O | C5H9BrO3
